US06900215B2
To 2-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]pyrazine prepared above was added 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (0.266 g, 1.04 mmol) followed by dry potassium phosphate (0.065 g), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.06 g) and dry N,N-dimethylformamide (5 ml). The mixture was degassed with nitrogen then stirred for 16 h at 65° C. under an atmosphere of dry nitrogen. The reaction was cooled to ambient temperature, silica gel added, and the solvent stripped at reduced pressure. The residue was subjected to chromatography on silica gel eluting with dichloromethane on a gradient of methanol (3.5-5%). The appropriate fractions were combined, concentrated in vacuo and the residue crystallised from toluene to afford 2-[3-(4-fluoro-3-(pyrazin-2-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol: δH (400 MHz, DMSO) 1.51 (6H, s), 5.51 (1H, s), 7.41 (1H, d, J 7), 7.62 (1H, dd, J 11 and 9), 7.88 (1H, m), 7.95 (1H, s), 8.18 (1H, dd, J 7 and 2), 8.72 (1H, d, J 2), 8.84 (1H, dd, J 1 and 2), 8.99 (1H, d, J 7), 9.14 (1H, dd, J 2 and 2); m/z (ES+) 350 (MH+).

reactant | 2-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]pyrazine | CC1(COB(OC1)C=1C=CC(=C(C1)C1=NC=CN=C1)F)C | C15H16BFN2O2
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 1.04 mmol, 0.266 g | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | potassium phosphate | 0.065 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.06 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[3-(4-fluoro-3-(pyrazin-2-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C2=NC=CN=C2 | C19H16FN5O
